US07268152B2
Synthesis of 2-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-1,1,1-trifluoro-4-methyl-4-(5-nitro-2,3-dihydrobenzofuran-7-yl)pentan-2-ol
To a solution of 42 mg (0.087 mmol) of 2-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4-(2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methylpentan-2-ol in 2 mL of acetic acid was added a mixture of 15 μL of fuming nitric acid (90%) and 22 μL of sulfuric acid in 250 μL of acetic acid in several portions. The mixture eventually turned from clear to green to deep blue. After 5 minutes, the reaction was cautiously made basic with saturated aqueous sodium bicarbonate and extracted with four 6 mL portions of EtOAc. The combined organic layers were washed with three 5 mL portions of saturated aqueous sodium bicarbonate, two 5 mL portions of brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The yellow residue was purified by preparative chromatography (silica gel, EtOAc-hexanes, (2:8)) to afford 34 mg of partially purified product, a second preparative chromatography (silica gel, toluene-hexanes (6:4)) afforded 24 mg of the title compound.

reactant | 2-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4-(2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methylpentan-2-ol | 0.087 mmol, 42 mg | ClC=1C(=C(CC(C(F)(F)F)(CC(C)(C)C2=CC=CC=3CCOC32)O)C=C(C1)C(F)(F)F)F | C22H20ClF7O2
reactant | nitric acid | 15 μL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 22 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 μL | C(C)(=O)O | C2H4O2
product | 2-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-1,1,1-trifluoro-4-methyl-4-(5-nitro-2,3-dihydrobenzofuran-7-yl)pentan-2-ol | 24 mg | ClC=1C(=C(CC(C(F)(F)F)(CC(C)(C2=CC(=CC=3CCOC32)[N+](=O)[O-])C)O)C=C(C1)C(F)(F)F)F | C22H19ClF7NO4
